US04302612
Preparation of 2-ethoxy-6-hydroxy-3,3,4,4,5,5-hexafluoropyran:
A solution of 30.3 g. (0.015 mol.) of Vitride (70% in benzene) in 30 ml. of dry tetrahydrofuran (THF) was added dropwise over 45 min. to a stirred solution of 25.0 g. (0.084 mol.) of diethyl perfluoroglutarate in 200 ml. of THF at -70° C. The mixture was stirred for an additional 2 hours at -70° C. followed by decomposing the Vitride as described in Example 1 to give 16.8 g. (87% by weight) of the title compound as a pale yellow liquid. Distillation afforded a colorless oil: boiling range 65°-70° C. (1.7 mm); nD26 1.3671; νmaxneat 3350 (broad) cm-1 ; nmr (CDCl3) δ 1.20 (t,3H,J=6.5 Hz), 3.46-4.10 (m,2H,J=4 Hz) 5.07-5.26 (m,2H), 8.33 (bd s, 1H, exch.) which on prolonged storage (1 month) solidified to a white crystalline product; melting range 84°-6° C. (C6H6).

reactant | Vitride | 0.015 mol | COCCO[AlH2-]OCCOC.[Na+]
reactant | diethyl perfluoroglutarate | 0.084 mol | FC(C(=O)OCC)(C(C(C(=O)OCC)(F)F)(F)F)F | C9H10F6O4
solvent | THF | O1CCCC1 | C4H8O
product | 2-ethoxy-6-hydroxy-3,3,4,4,5,5-hexafluoropyran | C(C)OC1OC(C(C(C1(F)F)(F)F)(F)F)O | C7H8F6O3
